US04997986
1-[[(5-Bromopentyl)oxy]methyl]naphthalene
1-Naphthalenemethanol (6.00 g) and 1,5-dibromopentane (11.5 ml) were treated according to the method of Intermediate 1. FCC eluting with ether-cyclohexane (1:49→2:48) gave the title compound as a colourless oil (8.41 g), t.l.c. (Cyclohexane-ether 19:1) Rf 0.22;

reactant | 1-Naphthalenemethanol | 6.00 g | C1(=CC=CC2=CC=CC=C12)CO | C11H10O
reactant | 1,5-dibromopentane | 11.5 ml | BrCCCCCBr | C5H10Br2
product | 1-[[(5-Bromopentyl)oxy]methyl]naphthalene | 8.41 g | BrCCCCCOCC1=CC=CC2=CC=CC=C12 | C16H19BrO
